US09260363B2
13.5 g (80.7 mmol) of 5H-indeno[1,2-b]pyridine was dissolved in 120 ml dry tetrahydrofuran, and 22.7 g (202 mmol) of potassium tert-butoxide was added to the solution at −10° C. The reaction mixture was maintained at −10° C. for 1 hour. Then the iodomethane 28.7 g (202 mmol) was added dropwise; the solution was then warmed slowly to room temperature and stirred for 6 h. After the reaction completion, water was added to the mixture to terminate the reaction. The reaction mixture was extracted with ethyl acetate and water, dried with anhydrous magnesium sulfate, the solvent was evaporated in vacuo, and the residue was crystallized with toluene to give the 5,5-dimethyl-5H-indeno[1,2-b]pyridine, 13.5 g (86%)

reactant | 5H-indeno[1,2-b]pyridine | 80.7 mmol, 13.5 g | N1=C2C(=CC=C1)CC1=CC=CC=C12 | C12H9N
reactant | potassium tert-butoxide | 202 mmol, 22.7 g | CC(C)([O-])C.[K+]
reactant | iodomethane | 202 mmol, 28.7 g | IC | CH3I
reactant | water | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 5,5-dimethyl-5H-indeno[1,2-b]pyridine | CC1(C2=CC=CC=C2C2=NC=CC=C21)C | C14H13N
